US05597832
33a. 2-Thienyl cyclopentyl ketone
Cyclopentanecarboxylic acid chloride, prepared from 100 mmol cyclopentanecarboxylic acid and 120 mmol of thionyl chloride, was dissolved in 100 mL of methylene chloride, and the solution was cooled in an ice bath. Thiophene (13.4 mL, 100 mmol) and SnCl4 (25 mL of a 1M solution in methylene chloride) were added. The reaction was warmed to room temperature and stirred for 72 hours. The reaction was quenched with 1 N HCl, and the mixture was extracted with three portions of methylene chloride. The organic extract was washed with satd aqueous NaHCO3, was dried over MgSO4, and filtered through a pad of silica gel. The solvent was removed by rotary evaporation to give 12.28 g of crude product, which was used without further purification.

reactant | Cyclopentanecarboxylic acid chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | cyclopentanecarboxylic acid | 100 mmol | C1(CCCC1)C(=O)O | C6H10O2
reactant | thionyl chloride | 120 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | Thiophene | 100 mmol, 13.4 mL | S1C=CC=C1 | C4H4S
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Thienyl cyclopentyl ketone | 12.28 g | C1(CCCC1)C(=O)C=1SC=CC1 | C10H12OS
